US05663148
Boc-(±)-2-Amino-5-phenylpentanoic acid
Di-tert-butyl dicarbonate (24 g) in 100 mL of tert-butanol was added dropwise to a stirred solution of (+)-2-amino-5-phenylpentanoic acid (21 g) dissolved in 150 mL of 1N sodium hydroxide solution. The solution was stirred at ambient temperature overnight and then washed with hexanes (2×100 mL). The aqueous phase was adjusted to pH 2 with 1N hydrochloric acid and extracted with ethyl ether (3×100 mL). The combined organic extracts were washed once with saturated brine (100 mL), dried over magnesium sulfate and concentrated in vacuo to afford 30 g (88%) of the title compound as a white solid. MS (FAB) m/e 294 (M+H)+.

reactant | Di-tert-butyl dicarbonate | 24 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | (+)-2-amino-5-phenylpentanoic acid | 21 g | NC(C(=O)O)CCCC1=CC=CC=C1 | C11H15NO2
solvent | tert-butanol | 100 mL | C(C)(C)(C)O | C4H10O
solvent | sodium hydroxide | 1N, 150 mL | [OH-].[Na+]
product | Boc-(±)-2-Amino-5-phenylpentanoic acid | 30 g, 88% | C(=O)(OC(C)(C)C)C(C(=O)O)(CCCC1=CC=CC=C1)N | C16H23NO4
